US07947834B2
1 g of tert-butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate, 0.256 g of lithium chloride, 1.418 g of potassium carbonate, 1.05 g of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine and 0.209 g of tetrakis(triphenylphosphine)palladium are introduced into 15 ml of 1,2-dimethoxyethane in a 100 ml three-necked flask under nitrogen; the mixture is brought to reflux for 1 h 30. The mixture is allowed to return to ambient temperature, 100 ml of water are added and the aqueous phase is extracted with 3 times 80 ml of ethyl acetate. The organic phases are combined and dried over sodium sulfate and the solvent is evaporated under reduced pressure. The residue is chromatographed on silica gel with a dichloromethane to dichloromethane/methanol/aqueous ammonia 90/10/1 elution gradient. 0.821 g of tert-butyl 3,6-dihydro-4,4′-bipyridine-1(2H)-carboxylate is obtained.

reactant | tert-butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate | 1 g | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
reactant | lithium chloride | 0.256 g | [Cl-].[Li+]
reactant | potassium carbonate | 1.418 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.05 g | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
catalyst | tetrakis(triphenylphosphine)palladium | 0.209 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 ml | O | H2O
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
product | tert-butyl 3,6-dihydro-4,4′-bipyridine-1(2H)-carboxylate | 0.821 g | N1(CCC(=CC1)C1=CC=NC=C1)C(=O)OC(C)(C)C | C15H20N2O2
